data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1=CC=C(C=C1)S(=O)(=O)N2C=C(C3=C2C=CC=C3)C=[N:10][N:20]([Na])[S:21](=O)(=O)C4=CC=C(C=C4)C.CC(C)(C)[OH+][Na]>>CC1=CC=C(C=C1)[S-:21](=O)=O.CC1=CC=C(C=C1)S(=O)(=O)N2C=C(C3=C2C=CC=C3)C=[N+:10]=[N:20][Na].CC(C)(C)[OH+][Na] 10=20;20,21=21
C[Si](C)(C)OCC#[C-:10].[CH3:20][Br:21]>>[CH3:20][C:10]#CCO[Si](C)(C)C.[Br-:21] 10=20;20,21=21
C1C[N:10]2CCN1CC2.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>C1C[N+:10]2(CCN1CC2)[CH2:20]C3=CC=C(C=C3)C#N.[Br-:21] 10=20;20,21=21
C[Si:20](C)(C)[O+]=C.[I-:10]>>C[Si-:20](C)(C)([O+]=C)[I:10] 10=20,
[H:20][CH2:21]P(=O)(OC)OC.[H:10][K:11]>>COP(=O)([CH2-:21])OC.[H:10][H:20].[K+:11] 10,11=10,20;20,21=21
CC(C)[OH+:11][Al-:10](OC1C2CC3C(CC2(C4(CC1=O)OCCO4)C)OC(O3)(C)C)(OC(C)C)OC(C)C.CC(C)O>>CC(C)[OH:11].CC(C)O[Al:10](OC1C2CC3C(CC2(C4(CC1=O)OCCO4)C)OC(O3)(C)C)OC(C)C.CC(C)O 10,11=11
[H:20][CH:21](C#C[Si](C(C)C)(C(C)C)C(C)C)[Si](C(C)C)(C(C)C)C(C)C.[Li:11][CH2:10]CCC>>[H:20][CH2:10]CCC.[Li+:11].CC(C)[Si]([CH-:21]C#C[Si](C(C)C)(C(C)C)C(C)C)(C(C)C)C(C)C 10,11=10,20;20,21=21
C[N:10](C)[C:20]1(OCCCO1)[OH2+:21]>>C[N+:10](=[C:20]1OCCCO1)C.[OH2:21] 10=20;20,21=21
[H:20][OH2+:21].C[N:10](C)C>>[H:20][N+:10](C)(C)C.[OH2:21] 10=20;20,21=21
CCOC(=O)CN[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[OH2:10]>>CCOC(=O)CN[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH2+:10] 10=20,
C[S+:21](C)[CH2:20]C[O-:10]>>C1[CH2:20][O:10]1.C[S:21]C 10=20;20,21=21
C[C:20](=[OH+:21])OC.[NH3:10].[Cl-]>>C[C:20]([NH3+:10])([OH:21])OC.[Cl-] 10=20;20,21=21
[Li-:10]([NH+:11](C(C)C)C(C)C)OC(=C)C(C)CC(C)CN=[N+]=[N-]>>[Li:10]OC(=C)C(C)CC(C)CN=[N+]=[N-].CC(C)[NH:11]C(C)C 10,11=11
C[Si:20](C)(C)CC#CCC(CC=O)C1=CC=CC=C1.[F-:10].CCCC[N+](CCCC)(CCCC)CCCC>>C[Si-:20](C)(C)(CC#CCC(CC=O)C1=CC=CC=C1)[F:10].CCCC[N+](CCCC)(CCCC)CCCC 10=20,
[H:20][CH:21]1[C:22](=[N+:23]2CCOCC2)CCCC1=O.C1COCC[NH:10]1.C1=CC=CC=C1.[OH-]>>[H:20][NH+:10]1CCOCC1.C1C[C:22](=[CH:21]C(=O)C1)[N:23]2CCOCC2.C1=CC=CC=C1.[OH-] 10=20;22,23=23;20,21=21,22
C[CH+:20]C.C1=CC=C(C=C1)[NH2:10]>>C[CH:20](C)[NH2+:10]C1=CC=CC=C1 10=20,
[H:20][C:21]1(C=CC=C1)C(C)(C)O.CC[O-:10]>>[H:20][O:10]CC.CC(C)([C-:21]1C=CC=C1)O 10=20;20,21=21
[B-]([O+:21]=[CH:20]CC)(F)(F)F.CCCC[Sn](CCCC)(CCCC)C1C=CC[CH:10]=[CH:11]1>>[B-]([O:21][CH:20](CC)[CH:10]1CC=CC([CH+:11]1)[Sn](CCCC)(CCCC)CCCC)(F)(F)F 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCN(CC)[C:11](=[CH:10]COCC)[OH:12]>>[H:20][CH:10](COCC)[C:11](=[OH+:12])N(CC)CC.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][O+:21]=C1CCCCC1CCCN.[OH2:10]>>[H:20][OH2+:10].C1CCC(=[O:21])C(C1)CCCN 10=20;20,21=21
CCCC(C([CH:20]([OH2+:21])[O:10]C)O)O.[Cl-]>>CCCC(C([CH:20]=[O+:10]C)O)O.[OH2:21].[Cl-] 10=20;20,21=21
CCO[C:20](CCC(=O)OC(=O)C)([OH:10])[Cl:21]>>CCO[C:20](=[OH+:10])CCC(=O)OC(=O)C.[Cl-:21] 10=20;20,21=21
[H:20][CH:21]1[C:22](=[O:23])CCC2C1(CCCC2)O.[OH-:10]>>[H:20][OH:10].C1CCC2([CH:21]=[C:22](CCC2C1)[O-:23])O 10=20;22,23=23;20,21=21,22
C[Si](C)(C)C[C:11]#[CH:10].[CH:20]1=[NH+:21]C(=O)OC1CCl>>C[Si](C)(C)C[C+:11]=[CH:10][CH:20]1C(OC(=O)[NH:21]1)CCl 10,11=10,20;20,21=21
CC(C)CC1(CCCC2=C([C:20]1([OH:21])[O-:10])C=CC=C2)C(=O)C(C)(C)O[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5>>CC(C)CC1(CCCC2=C([C:20]1=[O:10])C=CC=C2)C(=O)C(C)(C)O[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5.[OH-:21] 10=20;20,21=21
[H:20][O:21]C(CC1=CC=C(C=C1)C)C2=CC=CC=C2.C1=CC=C(C=C1)CC(C2=CC=CC=C2)(C(C#N)(C3=CC=CC=C3)[O-:10])O>>[H:20][O:10]C(C#N)(C1=CC=CC=C1)C(CC2=CC=CC=C2)(C3=CC=CC=C3)O.CC1=CC=C(C=C1)CC(C2=CC=CC=C2)[O-:21] 10=20;20,21=21
[H:20][CH:21]1CCCCCC2[CH:22]1[O+:23]2[Li-][N:10](CC)CC>>[H:20][N+:10]([Li-][O:23]C1CCCCC[CH:21]=[CH:22]1)(CC)CC 10=20;22,23=23;20,21=21,22
[B:20](Br)(Br)Br.C[O:10]C1=C2C3=C(CC4C5(C3(CCN4CC6CCC6)C(O2)C(=O)CC5)O)C=C1>>[B-:20]([O+:10](C)C1=C2C3=C(CC4C5(C3(CCN4CC6CCC6)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)Br 10=20,
[H:20][C:21]1(C=CC=C[C+:22]1NC(=O)CC)Br.[Fe-]([Br:10])(Br)(Br)Br>>[H:20][Br+:10][Fe-](Br)(Br)Br.CCC(=O)N[C:22]1=[C:21](C=CC=C1)Br 10=20;20,21=21,22
CCCCCC1CC2[CH:10]=[CH:11]C1[CH:20]2[O:21]S(=O)(=O)C3=CC=C(C=C3)C>>CCCCCC1CC2[CH:10]3[CH:20]2C1[CH+:11]3.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10,11=10,20;20,21=21
CC[CH:20]=[O:21].[CH3:10][Mg:11]Br>>CC[CH:20]([CH3:10])[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
[H:20][OH2+:21].C1CCC(C(C1)CN=N[OH:10])O.[Cl-]>>[H:20][OH+:10]N=NCC1CCCCC1O.[OH2:21].[Cl-] 10=20;20,21=21
C[NH:10]N.C1=CC=C(C=C1)[CH2:20][Br:21]>>C[NH+:10]([CH2:20]C1=CC=CC=C1)N.[Br-:21] 10=20;20,21=21
[H:20][C:21]1([C+:22](C=CO1)C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[C:22]1=[C:21](OC=C1)[N+](=O)[O-] 10=20;20,21=21,22
C[CH+:20]C.[CH:11]1=[CH:10]OC(=C1)C#N>>C[CH:20](C)[CH:10]1[CH+:11]C=C(O1)C#N 10,11=10,20
[H:20][C:21]1([C+:22](C=CO1)OC)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CO[C:22]1=[C:21](OC=C1)S(=O)(=O)O 10=20;20,21=21,22
CC(=O)O[I:10]1(C2=C(C=CC=C2)C(=O)O1)(OC3CCC45CC3CC4CCC6C5(CCC(=O)C6(C)C)C)[O:11]C(=O)C.CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1>>CC(=O)[O-:11].CC(=O)O[I+:10]1(C2=C(C=CC=C2)C(=O)O1)OC3CCC45CC3CC4CCC6C5(CCC(=O)C6(C)C)C.CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1 10,11=11
C1[CH:20]([OH+:21]1)[OH:10]>>C([CH:20]=[OH+:10])[OH:21] 10=20;20,21=21
